US08039469B2
Preparation of 3-({[4-(4-{4-[(methylcarbamoyl)amino]phenyl}-6-morpholin-4-yl-1,3,5-triazin-2-yl)phenyl]carbamoyl}amino) benzamide
The title compound was prepared by following the procedure of example 462 step 7 using 1-(4-(4-(4-aminophenyl)-6-morpholino-1,3,5-triazin-2-yl)phenyl)-3-methylurea and phenyl 3-carbamoylphenylcarbamate. Yield 51 mg, 4% yield.

reactant | 1-(4-(4-(4-aminophenyl)-6-morpholino-1,3,5-triazin-2-yl)phenyl)-3-methylurea | NC1=CC=C(C=C1)C1=NC(=NC(=N1)N1CCOCC1)C1=CC=C(C=C1)NC(=O)NC | C21H23N7O2
reactant | phenyl 3-carbamoylphenylcarbamate | C(N)(=O)C=1C=C(C=CC1)NC(OC1=CC=CC=C1)=O | C14H12N2O3
product | 3-({[4-(4-{4-[(methylcarbamoyl)amino]phenyl}-6-morpholin-4-yl-1,3,5-triazin-2-yl)phenyl]carbamoyl}amino) benzamide | 4% yield | CNC(=O)NC1=CC=C(C=C1)C1=NC(=NC(=N1)N1CCOCC1)C1=CC=C(C=C1)NC(=O)NC=1C=C(C(=O)N)C=CC1 | C29H29N9O4
